US07544703B2
N-(3,5-Dimethylphenyl)-2-[2-(N′-n-propylureido)pyridin-4-ylmethylthio]pyridine-3-carboxamide (Compound No. 5-1)
n-Propyl isocyanate (20 mg, 0.23 mmol) was added to a solution of 2-(2-aminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide (The free base of Compound No. 3-1, 28 mg, 0.077 mmol) in N,N-dimethylformamide (0.60 mL) at room temperature, and the mixture was stirred for 4 hours at 80° C. Ethyl acetate (10 mL) was added to the reaction mixture, the whole was washed with water (15 mL) and brine (15 mL), and then the organic layer was dried over anhydrous magnesium sulfate. The organic layer was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give 12 mg of the target compound as a colorless solid(Yield 33%).

reactant | n-Propyl isocyanate | 0.23 mmol, 20 mg | C(CC)N=C=O | C4H7NO
reactant | 2-(2-aminopyridin-4-ylmethylthio)-N-(3,5-dimethylphenyl)pyridine-3-carboxamide | NC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)NC1=CC(=CC(=C1)C)C | C20H20N4OS
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.60 mL | CN(C=O)C | C3H7NO
product | N-(3,5-Dimethylphenyl)-2-[2-(N′-n-propylureido)pyridin-4-ylmethylthio]pyridine-3-carboxamide | 12 mg, Yield 33% | CC=1C=C(C=C(C1)C)NC(=O)C=1C(=NC=CC1)SCC1=CC(=NC=C1)NC(=O)NCCC | C24H27N5O2S
